US07163947B2
A solution of N-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (0.98 g, 3.45 mmol) in 35 mL of CH2Cl2 was treated with MCPBA (77% max., 1.10 g, 4.48 mmol). After stirring for 3 h, the reaction was quenched with 2% Na2CO3 solution and extracted into CH2Cl2. The organic portion was washed with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated to give N-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (0.93 g) as a light-orange solid.

reactant | N-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 3.45 mmol, 0.98 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NC(C)C | C16H20N4O
reactant | MCPBA | 4.48 mmol, 1.10 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | N-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 0.93 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)NC(C)C | C16H20N4O2
